US08030499B2
Step 192-2: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxy-5-pyridin-4-ylphenyl)-1,3-dihydro-2H-indol-2-one
Under nitrogen atmosphere to a suspension of 1.33 g of 5-chloroisatin in THF (31.5 ml) was added 555 mg of NaH under ice cooling and the reaction mixture was stirred for one hour under the same conditions. To the reaction solution was added dropwise the lithiation reagent prepared above over 5 minutes and the reaction solution was stirred for one hour under ice cooling. An aqueous solution of saturated NH4Cl and EtOAc were added to the reaction solution; liquid separation was performed and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with saturated brine, dried over MgSO4, then, the drying agent was separated by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (Chromatorex NH; mobile phase: CHCl3/MeOH/NH4OH=97/3/0.3 to 90/10/0.9; v/v/v) to obtain 1.85 g of the title compound (pale brown solid).

reactant | 5-chloroisatin | 1.33 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | NaH | 555 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | THF | 31.5 ml | C1CCOC1 | C4H8O
product | 5-chloro-3-hydroxy-3-(2-methoxy-5-pyridin-4-ylphenyl)-1,3-dihydro-2H-indol-2-one | 1.85 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC(=C1)C1=CC=NC=C1)OC)O | C20H15ClN2O3
